* CL05A105KO5NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 1uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.05mm
*     Width = 0.50+/-0.05mm
*     Thickness = 0.50+/-0.05mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 5.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A105KO5NNN_Precise_DC5.5V_25degC 1 2
C1 1 3 2.74817E-7
C2 3 4 1.18174E-5
C3 4 5 1.19290E-5
C4 5 6 1.13989E-5
C5 6 7 1.13869E-5
C6 7 8 8.85618E-6
C7 8 9 2.39864E-6
C8 9 10 1.0E-10
C16 17 18 5.01287E-5
C17 18 19 1.26443E-5
C18 19 20 5.71640E-5
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 1.15369E-5
C23 24 25 3.01809E-6
C24 25 26 5.57171E-7
C25 26 27 2.04817E-8
C26 27 28 4.07814E-11
C27 28 2 2.53303E-4
L10 11 12 8.37211E-11
L11 12 13 6.87852E-11
L12 13 14 3.52048E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.07064E-10
L17 18 19 1.26125E-10
L18 19 20 7.08687E-12
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.11250
L23 24 25 9.78249E-12
L24 25 26 2.81992E-11
L25 26 27 1.19779E-10
L26 27 28 1.14061E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 534.79327
R3 4 5 79.23852
R4 5 6 1.69176
R5 6 7 0.24880
R6 7 8 0.03355
R7 8 9 0.00608
R8 9 10 1.0E-6
R9 10 11 0.00657
R11 12 13 0.13733
R12 13 14 1.19205
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00825
R17 18 19 0.02869
R18 19 20 0.00447
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 11.27359
R23 24 25 0.00614
R24 25 26 0.01209
R25 26 27 0.03311
R26 27 28 3.08137
R27 28 2 1.0E-6
.ENDS CL05A105KO5NNN_Precise_DC5.5V_25degC