*----------------------------------------------------------------------
* kyocera : KGM05CR51C475M (CM05X5R475M16A)  0402 / X5R / 4.7É F / +/-20% / 16V
* Nominal Capacitance : 4.7É F
* Capacitance Tolerance : +/-20%
* Temperature Coefficient : X5R
* Rated Voltage : 16V
* Frequency Range : 0.01MHz - 3000MHz
* Measurement Temp : 25deg
* DC Bias Voltage : 0Vdc
* AC Signal       :  0dBm
* Series
*----------------------------------------------------------------------
.SUBCKT         KGM05CR51C475M port1 port2
C1         port1       3            0.01
C2             3       4        4.62E-06
C3             4       5        1.08E-05
C4             5       6        5.82E-05
C5             6       7        5.62E-05
C6             7       8        4.62E-05
C7             8       9         2.4E-05
C8             9      10        3.49E-07
L1            10      11        4.42E-09
L2            11      12        2.29E-09
L3            12      13        3.11E-11
L4            13      14        2.76E-11
L5            14      15        1.46E-11
L6            15      16        7.18E-11
L7            16      17        1.21E-10
R1             1       3         5.00000E+08
R2             3       4         1.06683E+03
R3             4       5         3.76941E+02
R4             5       6         2.23173E+00
R5             6       7         5.11344E-01
R6             7       8         8.40798E-02
R7             8       9         1.76397E-02
R8             9      10         8.34988E-04
R9            10      11         1.12411E-03
R10           11      12         5.05730E-03
R11           12      13         5.88231E-03
R12           13      14         4.30603E-02
R13           14      15         1.00085E-01
R14           15      16         2.36666E+01
R15           16      17         2.45648E+01
R16           17   port2         1.14481E-03
.ENDS
