.subckt tps628512-ramp V+ V-
+params: Vmax=3.3 Imax=2.8u
V1 2 3 DC {2.0*Imax*Vmax/0.6}
V2 0 3 DC {Imax*Vmax/0.6/1000}
R1 1 2 1k
S1 1 3 V+ V- limit
G1 V+ V- 1 0 -1
.model limit vswitch
+Roff=1002 Ron=500.25m
+Voff={0.99*Vmax} Von={1.01*Vmax}
.ends
