.subckt usb-source V+ V-
+params: Vmax=5 Imax=100m
V1 2 3 DC {2.0*Imax}
V2 0 3 DC {Imax/1000}
R1 1 2 1k
S1 1 3 V+ V- limit
G1 V+ V- 1 0 -1
.model limit vswitch
+Roff=1002 Ron=500.25m
+Voff={0.99*Vmax} Von={1.01*Vmax}

V3 4 V- DC 5
R2 4 V+ 10Meg
C1 V+ V- 120u
.ends
