* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Mar-01-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 1.8V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC1.8V_25degC 1 2
C1 1 3 1.38709E-5
C2 3 4 3.55075E-4
C3 4 5 4.47514E-4
C4 5 6 4.56902E-4
C5 6 7 4.34163E-4
C6 7 8 5.24565E-4
C7 8 9 3.96674E-4
C8 9 10 1.0E-10
C16 17 18 0.00245
C17 18 19 0.01403
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 3.47229E-5
C24 25 26 3.23353E-5
C25 26 27 1.71204E-6
C26 27 28 4.40287E-11
C27 28 2 3.32930E-11
L10 11 12 6.60611E-11
L11 12 13 8.68775E-11
L12 13 14 8.60368E-11
L13 14 15 2.88826E-11
L14 15 16 3.29471E-11
L15 16 17 1.0E-10
L16 17 18 4.70642E-12
L17 18 19 1.54697E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 7.64909E-11
L24 25 26 4.14780E-11
L25 26 27 2.02555E-10
L26 27 28 3.27431E-11
L27 28 2 1.56269E-11
R1 1 3 1.0E8 noisy=0
R2 3 4 20.40896 noisy=0
R3 4 5 2.25769 noisy=0
R4 5 6 0.39311 noisy=0
R5 6 7 0.07660 noisy=0
R6 7 8 0.01254 noisy=0
R7 8 9 0.00352 noisy=0
R8 9 10 1.0E-6 noisy=0
R9 10 11 0.00227 noisy=0
R11 12 13 0.01255 noisy=0
R12 13 14 0.01242 noisy=0
R13 14 15 0.03567 noisy=0
R14 15 16 0.13695 noisy=0
R15 16 17 1.0E-6 noisy=0
R16 17 18 4.92458E-4 noisy=0
R17 18 19 1.67303E-4 noisy=0
R18 19 20 1.0E-6 noisy=0
R19 20 21 1.0E-6 noisy=0
R20 21 22 1.0E-6 noisy=0
R21 22 23 1.0E-6 noisy=0
R22 23 24 1.0E-6 noisy=0
R23 24 25 0.00341 noisy=0
R24 25 26 0.00255 noisy=0
R25 26 27 0.00668 noisy=0
R26 27 28 1.21565 noisy=0
R27 28 2 0.86170 noisy=0
.ENDS CL21A226MPQNNN_Precise_DC1.8V_25degC
